US04166126
The starting material is prepared as follows: To the stirred suspension of 1.09 g of 7-chloro-5-hydroxy-2,3-dihydro-1-benzothiepin-1,1-dioxide in 20 ml of benzene the solution of 0.5 g of titanium tetrachloride in 10 ml of benzene is added dropwise while cooling with ice, and the mixture stirred for 1/2 hour at 0°. Thereupon the solution of 0.7 g of dimethylamine in 10 ml of benzene is added dropwise and the mixture allowed to warm up to room temperature. It is filtered, the filtrate evaporated, and the residue recrystallized from diethyl ether, to yield the 7-chloro-5-dimethylamino-2,3-dihydro-1-benzothiepin-1,1-dioxide melting at 93°-95°.

reactant | 7-chloro-5-hydroxy-2,3-dihydro-1-benzothiepin-1,1-dioxide | 1.09 g | ClC=1C=CC2=C(C(=CCCS2(=O)=O)O)C1 | C10H9ClO3S
reactant | dimethylamine | 0.7 g | CNC | C2H7N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 0.5 g | [Ti](Cl)(Cl)(Cl)Cl
product | 7-chloro-5-dimethylamino-2,3-dihydro-1-benzothiepin-1,1-dioxide | ClC=1C=CC2=C(C(=CCCS2(=O)=O)N(C)C)C1 | C12H14ClNO2S
